US04012513
A solution of methyl 1-(7-aminoquinazolin-4-yl)-5-methoxy-2-methylindol-3-ylacetate (0.5g.) in acetic acid (12 ml.) was treated with concentrated hydrochloric acid (1.5 ml.). The solution obtained was stirred at 0°-5° C during the addition, over 15 minutes, of a solution of sodium nitrite (0.15g.) in water (2 ml.). The dark red solution was added dropwise to a solution of cuprous chloride (0.2g.) in concentrated hydrochloric acid (5ml.) kept at room temperature. The mixture was then stirred for 1 hr. before addition of sufficient sodium acetate to adjust the pH of the mixture to 4-5. The mixture was then concentrated in vacuo and the residue treated with water (100ml.) and ethyl acetate (50ml.). The aqueous layer was extracted with ethyl acetate (2 × 30ml.) and the extracts washed with saturated sodium hydrogen carbonate solution (2 × 30ml.). After being washed with water (30ml.) and dried(Na2SO4), evaporation of the extracts in vacuo gave an oil, which slowly solidified to give methyl 1-(7-chloroquinazolin-4-yl)-5-methoxy-2-methyl-indol-3-ylacetate as a yellow solid, m.p. 111°-114° C.

reactant | methyl 1-(7-aminoquinazolin-4-yl)-5-methoxy-2-methylindol-3-ylacetate | 0.5g | NC1=CC=C2C(=NC=NC2=C1)N1C(=C(C2=CC(=CC=C12)OC)CC(=O)OC)C | C21H20N4O3
reactant | sodium nitrite | 0.15g | N(=O)[O-].[Na+]
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | hydrochloric acid | 5ml | Cl | ClH
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
solvent | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
solvent | water | 2 ml | O | H2O
product | methyl 1-(7-chloroquinazolin-4-yl)-5-methoxy-2-methyl-indol-3-ylacetate | ClC1=CC=C2C(=NC=NC2=C1)N1C(=C(C2=CC(=CC=C12)OC)CC(=O)OC)C | C21H18ClN3O3
